US05455258
t-Butyl 2(R)-[[4-methoxybenzenesulfonyl](3-picolyl)amino]-3-methylbutanoate (5.3 g, 12.2 mmol) is dissolved in methylene chloride (150 mL) and cooled to -10° C. Hydrochloric acid gas is bubbled into the solution for 10 minutes. The reaction mixture is then sealed, warmed to room temperature and stirred for 4 hours. The solvent is then evaporated to provide 2(R)-[[4-methoxybenzenesulfonyl](3-picolyl)amino]-3-methylbutanoic acid hydrochloride. 2(R)-[[4-methoxybenzenesulfonyl](3-picolyl)amino]-3-n-methylbutanoic acid hydrochloride (5.0 g, 12.06 mmol), 1-hydroxybenzotriazole (1.63 g, 12.06 mmol), 4-methylmorpholine (6.6 mL, 60.31 mmol), and O-t-butylhydroxylamine hydrochloride (54.55 g, 36.19 mmol) are dissolved in methylene chloride (200 mL). N-[Dimethylaminopropyl]-N'-ethylcarbodiimide hydrochloride (3.01 g, 15.68 mmol) is added, and the reaction is stirred overnight. The reaction is then diluted with water and extracted with methylene chloride. The combined organic extracts are washed with brine, dried (Na2SO4), and the solvent is evaporated. The crude product is purified by silica gel chromatography (2% methanol/methylene chloride) to give N-(t-butyloxy)-2(R)-[[4-methoxybenzenesulfonyl](3-picolyl)amino]-3-methylbutanamide.

reactant | t-Butyl 2(R)-[[4-methoxybenzenesulfonyl](3-picolyl)amino]-3-methylbutanoate | 12.2 mmol, 5.3 g | COC1=CC=C(C=C1)S(=O)(=O)N([C@@H](C(=O)OC(C)(C)C)C(C)C)CC=1C=NC=CC1 | C22H30N2O5S
reactant | methylene chloride | 150 mL | C(Cl)Cl | CH2Cl2
product | 2(R)-[[4-methoxybenzenesulfonyl](3-picolyl)amino]-3-methylbutanoic acid hydrochloride | Cl.COC1=CC=C(C=C1)S(=O)(=O)N([C@@H](C(=O)O)C(C)C)CC=1C=NC=CC1 | InChI=1S/C18H22N2O5S.ClH/c1-13(2)17(18(21)22)20(12-14-5-4-10-19-11-14)26(23,24)16-8-6-15(25-3)7-9-16;/h4-11,13,17H,12H2,1-3H3,(H,21,22);1H/t17-;/m1./s1
